US08877801B2
To a solution of 4-bromophenol (469 mg, 2.71 mmol) in DMF (3 mL) was added sodium hydride (60% suspension in oil, 108 mg, 2.71 mmol), the resulting mixture was allowed to stir for 10 min at room temperature. To the solution was added 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene 1-oxide (900 mg, 2.46 mmol) as a solid. The reaction was heated to 80° C. for 18 h. Upon completing the reaction was cooled to room temperature, quenched with water and diluted with DCM. The organic phase was collected (phase separator) and concentrated in vacuo to afford the crude product. The crude material was purified by column chromatography (SiO2, 0-60% EtOAc/Heptane) to afford 3-(4-bromophenoxy)-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene 1-oxide (980 mg, 2.14 mmol, 87% yield) as a yellow solid.

reactant | 4-bromophenol | 2.71 mmol, 469 mg | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium hydride | 2.71 mmol, 108 mg | [H-].[Na+]
reactant | 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene 1-oxide | 2.46 mmol, 900 mg | BrC=1C2=C(S(C1C1=CC=C(C=C1)OC)=O)C=C(C=C2)OC | C16H13BrO3S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(4-bromophenoxy)-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene 1-oxide | 2.14 mmol, 980 mg, 87% yield | BrC1=CC=C(OC=2C3=C(S(C2C2=CC=C(C=C2)OC)=O)C=C(C=C3)OC)C=C1 | C22H17BrO4S
